US03932431
With continuous stirring, subject a mixture containing 6 g. of α-phenyl-α-(2-pyridyl) propionitrile and 5 ml. of triethylamine in 60 ml. of dimethylformamide to a stream of hydrogen sulfide for 24 hours. Pour the resulting solution into 200 ml. of ice water, filter, wash and dry the solids which are formed. Recrystallize the solids from acetonitrile to obtain the intermediate α-phenyl-α-(2-pyridyl) thiopropionamide, m.p. 186°-188° C.

reactant | α-phenyl-α-(2-pyridyl) propionitrile | C1(=CC=CC=C1)C(C#N)(C)C1=NC=CC=C1 | C14H12N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | α-phenyl-α-(2-pyridyl) thiopropionamide | C1(=CC=CC=C1)C(C(=S)N)(C)C1=NC=CC=C1 | C14H14N2S
